US04609652
(a) (2R, 3S)-3-Benzyloxy-2-[(4-ethyl-2,3-dioxopiperazin-1-yl)carbonylamino]butyric acid
O-Benzyl-D-threonine (0.92 g, 4.4 mmole) (prepared by the method of T. Mizoguchi, G. Levin, D. W. Woolley, and J. M. Stewart, J. Org. Chem., 1968, 33, 903, who described the L-isomer) was suspended in water (20 ml) and the pH adjusted to 9.5 , giving a virtually complete solution. This was cooled to 0° C. and stirred while 4-ethyl-2,3-dioxopiperazine-1-carbonyl chloride (1.00 g, 4.9 m mole) in AR acetone (10 ml) was added dropwise. The pH was kept at 9.5 by the addition of further base while the solution was allowed to regain room temperature. After 2 h the solution was acidified to pH 2 and the bulk of the acetone removed by evaporation. The oily product was extracted into ethyl acetate (3×50 ml), then the total organic phase was washed once with brine and dried over sodium sulphate. Evaporation gave the title acid (1.36 g, 82%) as a colourless non-crystalline foam which retained solvent traces tenaciously; Rf 0.35 in chloroform:methanol:acetic acid, 17:2:1; δ(CDCl3) 0.75-1.35 (5H, m, CH3CH and NCH2CH3), 3.1-3.7 (4H, m, 2 NCH2), 3.9-4.25 (2H, m, NCH2), 4.50 (2H, m, CH--CH), 6.25 (1H, brs, D2O exch, OH), 7.25 (5H, s, aryl), 9.50 (1H, brd), J 7 Hz, D2O exch, NH), 9.70 (1H, brs, D2O exch, CO2H).

reactant | O-Benzyl-D-threonine | 4.4 mmole, 0.92 g | C(C1=CC=CC=C1)O[C@H]([C@@H](N)C(=O)O)C | C11H15NO3
reactant | 4-ethyl-2,3-dioxopiperazine-1-carbonyl chloride | 1.00 g | C(C)N1C(C(N(CC1)C(=O)Cl)=O)=O | C7H9ClN2O3
reactant | methanol | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2R, 3S)-3-Benzyloxy-2-[(4-ethyl-2,3-dioxopiperazin-1-yl)carbonylamino]butyric acid | C(C1=CC=CC=C1)O[C@H]([C@H](C(=O)O)NC(=O)N1C(C(N(CC1)CC)=O)=O)C | C18H23N3O6
